US07622583B2
To a mixture of N-[2-(2-amino-pyridine-4-carbonyl)-5-chloro-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide (800 mg, 1.69 mmol), Boc-glycine (742 mg, 4.24 mmol), diisopropylethylamine (1.9 mL, 10.14 mmol) in methylene chloride (4 mL) was added propylphosphonic anhydride (2.68 mL, 50% solution in EtOAc, 4.24 mmol) was added slowly. The resultant heterogeneous solution was allowed to stir overnight at 45° C. The following day, the reaction was diluted with EtOAc, the organics were washed with saturated sodium bicarbonate, aqueous saturated NH4Cl and dried with sodium sulfate, concentrated in vacuo, and purified via automated silica gel chromatography to provide ({4-[5-chloro-3-(4-methyl-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carbonyl]-pyridin-2-ylcarbamoyl}-methyl)-carbamic acid tert-butyl ester.

reactant | N-[2-(2-amino-pyridine-4-carbonyl)-5-chloro-pyridin-3-yl]-4-methyl-3-trifluoromethyl-benzenesulfonamide | 1.69 mmol, 800 mg | NC1=NC=CC(=C1)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)Cl | C19H14ClF3N4O3S
reactant | Boc-glycine | 4.24 mmol, 742 mg | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | diisopropylethylamine | 10.14 mmol, 1.9 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylphosphonic anhydride | 4.24 mmol, 2.68 mL | CCCP(=O)=O | C3H7O2P
solvent | methylene chloride | 4 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ({4-[5-chloro-3-(4-methyl-3-trifluoromethyl-benzenesulfonylamino)-pyridine -2-carbonyl]-pyridin-2-ylcarbamoyl}-methyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(NC1=NC=CC(=C1)C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)C)C(F)(F)F)Cl)=O)=O | C26H25ClF3N5O6S
